US04628059
The crude 4-(3'-fluorobenzyl)-1-formyl-3-thiosemicarbazide (1.3 g) was refluxed overnight in a solution of sodium ethoxide (from sodium (0.3 g) in ethanol (25 ml)). The reaction was filtered, evaporated to dryness, and diluted with water. The aqueous solution was acidified to pH 3-4 with 10% hydrochloric acid, and the precipitate was collected by filtration and recrystallized from ethanol-water to yield 0.5 g (41%) of 4-(3'-fluorobenzyl)-1,2,4-triazole-3-thiol, m.p.: 124°-125° C.

reactant | 4-(3'-fluorobenzyl)-1-formyl-3-thiosemicarbazide | 1.3 g | FC=1C=C(CNC(NNC=O)=S)C=CC1 | C9H10FN3OS
reactant | sodium ethoxide | 25 ml, 0.3 g | [O-]CC.[Na+]
product | 4-(3'-fluorobenzyl)-1,2,4-triazole-3-thiol | 0.5 g, 41% | FC=1C=C(CN2C(=NN=C2)S)C=CC1 | C9H8FN3S
